US07504508B2
(2S,4R)-1-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-piperidine-4-carboxylic acid ethyl ester was prepared from (2S,4R)-trifluoro-methanesulfonic acid 4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl ester by adding piperidine-4-carboxylic acid ethyl ester (4 eq.), Cs2CO3 (3 eq.), 10% Pd2(dba)3, BINAP (0.20 equ), and 10% 18-Crown-6 (0.10 eq.) in toluene at 110° C. over night. The reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and water, then extracted three times with ethyl acetate, dried over MgSO4, filtered and concentrated down. The crude residue was purified by HPLC to afford the product.

reactant | (2S,4R)-trifluoro-methanesulfonic acid 4-{4-[acetyl(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl ester | C(C)(=O)N([C@@H]1C[C@@H](N(C2=CC=CC=C12)C(=O)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C)C1=CC=C(C=C1)Cl | C26H22ClF3N2O5S
reactant | piperidine-4-carboxylic acid ethyl ester | 4 eq. | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | Cs2CO3 | 3 eq. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | 18-Crown-6 | 0.10 eq. | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2S,4R)-1-(4-{4-[Acetyl-(4-chloro-phenyl)-amino]-2-methyl-3,4-dihydro-2H-quinoline-1-carbonyl}-phenyl)-piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCN(CC1)C1=CC=C(C=C1)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)N(C1=CC=C(C=C1)Cl)C(C)=O)C | C33H36ClN3O4
